US05948786
Synthesis of 2-amino-4-(4-hydroxyphenylmethyl)-6-[1-(3,4-methylenedioxybenzoyl)-4-piperidinyl] pyrimidine
2-Amino-4-(4-benzyloxyphenylmethyl)-6-[1-(3,4-methylenedioxybenzoyl)-4-piperidinyl]pyrimidine (570 mg, 1.09 mmol) was dissolved in acetic acid (5 ml) and hydrogenated under 1 atm in the presence of 10% palladium on carbon (360 mg) for about 3.5 hours. The catalyst was filtered off. The filtrate was poured into aqueous sodium hydrogen carbonate and extracted with chloroform. The organic layer was concentrated in vacuo and the residue was purified by column chromatography (chloroform:methanol=97:3) to give the titled compound (256 mg) as a foam.

reactant | 2-Amino-4-(4-benzyloxyphenylmethyl)-6-[1-(3,4-methylenedioxybenzoyl)-4-piperidinyl]pyrimidine | 1.09 mmol, 570 mg | NC1=NC(=CC(=N1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC2=C(C=C1)OCO2)=O | C31H30N4O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 360 mg | [Pd] | Pd
product | 2-amino-4-(4-hydroxyphenylmethyl)-6-[1-(3,4-methylenedioxybenzoyl)-4-piperidinyl] pyrimidine | 256 mg | NC1=NC(=CC(=N1)CC1=CC=C(C=C1)O)C1CCN(CC1)C(C1=CC2=C(C=C1)OCO2)=O | C24H24N4O4
